US20010053785A1
2-[4′-(2-Benzyl-benzo[b]thiophen-3-yl)-biphenyl-4-yloxy]-3-phenyl-propionic acid
The title compound was prepared from 4′-(2-benzyl-benzo[b]-thiophen-3-yl)-biphenyl-4-ol, and 3-phenyllactic acid methyl ester, in substantially the same manner, as described in Example 1, steps g-h, and was obtained as a white solid, mp 165-167° C.; MS m/e 540 (M+);

reactant | 4′-(2-benzyl-benzo[b]-thiophen-3-yl)-biphenyl-4-ol | C(C1=CC=CC=C1)C1=C(C2=C(S1)C=CC=C2)C2=CC=C(C=C2)C2=CC=C(C=C2)O | C27H20OS
reactant | 3-phenyllactic acid methyl ester | COC(C(O)CC1=CC=CC=C1)=O | C10H12O3
product | 2-[4′-(2-Benzyl-benzo[b]thiophen-3-yl)-biphenyl-4-yloxy]-3-phenyl-propionic acid | C(C1=CC=CC=C1)C1=C(C2=C(S1)C=CC=C2)C2=CC=C(C=C2)C2=CC=C(C=C2)OC(C(=O)O)CC2=CC=CC=C2 | C36H28O3S
